US08735402B2
(a) N-(2,4-Dichloropyrimidin-5-yl)-4-methoxy-3,5-dimethylbenzamide
3.2 g of 5-amino-2,4-dichloropyrimidine in 50 ml ethyl acetate were added to a mixture of 25 ml of saturated aqueous sodium bicarbonate solution and 25 ml of water. At room temperature, a solution of 4.9 g of 3,5-dimethyl-4-methoxybenzoyl chloride was added over a period of 15 min. The mixture was stirred intensively for 4 h. The layers were then separated, after which the aqueous layer was extracted twice with ethyl acetate. After drying over sodium sulfate and filtration, the solvent was removed under reduced pressure, giving 7.54 g of crude product. The crude product was triturated with 25 ml of isopropanol. Filtration and washing with 10 ml of isopropanol gave 2.74 g of the title compound in the form of a white solid.

reactant | 5-amino-2,4-dichloropyrimidine | 3.2 g | NC=1C(=NC(=NC1)Cl)Cl | C4H3Cl2N3
reactant | sodium bicarbonate | 25 ml | C([O-])(O)=O.[Na+]
reactant | water | 25 ml | O | H2O
reactant | 3,5-dimethyl-4-methoxybenzoyl chloride | 4.9 g | CC=1C=C(C(=O)Cl)C=C(C1OC)C | C10H11ClO2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(2,4-Dichloropyrimidin-5-yl)-4-methoxy-3,5-dimethylbenzamide | 2.74 g | ClC1=NC=C(C(=N1)Cl)NC(C1=CC(=C(C(=C1)C)OC)C)=O | C14H13Cl2N3O2
